US07951803B2
To a solution of 4.0 g (21 mmol, 1.0 eq.) of N-(4-nitrobenzyl)acetamide (I-21) in 100 mL of THF was added a catalytic amount of Raney Nickel. The mixture was stirred under 1 atm. of hydrogen at room temperature for 16 h. The mixture was filtered through Celite® and the pad was washed with 100 mL of THF. The solvent was removed in vacuo to provide 3.4 g (21 mmol, 100%) of N-(4-aminobenzyl)acetamide (I-22).

reactant | N-(4-nitrobenzyl)acetamide | 21 mmol, 4.0 g, 1.0 eq. | [N+](=O)([O-])C1=CC=C(CNC(C)=O)C=C1 | C9H10N2O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | [Ni] | Ni
product | N-(4-aminobenzyl)acetamide | 21 mmol, 3.4 g, 100% | NC1=CC=C(CNC(C)=O)C=C1 | C9H12N2O
